* Z:\mnt\design.r\spice\examples\1302-5.asc
C1 OUT 0 100µ Rser=0.02
D1 N001 OUT MBRS340
L1 IN N001 10µ Rser=0.02 Rpar=5000
R1 N004 N005 20K
C3 N005 0 .01µ
V1 IN 0 2.5
XU1 0 N004 N002 OUT N003 IN N001 0 LT1302 top=315K bot=105K
Rload OUT 0 100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1302.sub
.backanno
.end
